US04636516
By following the same procedure as in Example 6 using 1.6 g of 4-(2-aminopropionyl)-2,6-di-tert-butyl-4-hydroxyphenol hydrochloride, 20 ml of ethanol, 0.5 ml of concentrated hydrochloric acid, 0.8 g of potassium isocyanate, a reaction product thus obtained was recrystallized from aqueous isopropanol to provide 0.7 g of 4-(3.5-di-tert-butyl-4-hydroxyphenyl)-5-methyl-2-oxo-4-imidazoline.

reactant | 4-(2-aminopropionyl)-2,6-di-tert-butyl-4-hydroxyphenol hydrochloride | 1.6 g | Cl.NC(C(=O)C1(CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)O)C
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
reactant | potassium isocyanate | 0.8 g | [N-]=C=O.[K+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-(3.5-di-tert-butyl-4-hydroxyphenyl)-5-methyl-2-oxo-4-imidazoline | 0.7 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=1NC(NC1C)=O | C18H26N2O2
